US04882359
A mixture of 3.00 g of 60% sodium hydride and 100 ml of benzene was incorporated dropwise with a solution of 3.00 g of L-2-amino-1-propanol in 10 ml of benzene, thereafter agitated at room temperature for a whole day, freed from the solvent by distillation off at reduced pressure to obtain a residue which was dissolved in ethyl acetate and subjected to column chromatography thereby to obtain 3.25 g of 5-methyl-3-morpholinone. A mixture of 1.24 g of 60% sodium hydride and 100 ml of toluene was incorporated dropwise with a solution of 3.25 g of 5-methyl-3-morpholinone in 10 ml of toluene, refluxed for one hour, incorporated with 7.05 g of lauryl bromide, further refluxed for a whole day, filtered to remove insoluble materials. The filtrate obtained was washed, dried and freed from the solvent by distillaton off at reduced pressure, subjected to column chromatography and finally distilled to obtain 5.69 g of colorless 4-(n-dodecyl)-5-methyl-3-morpholinone having the following appearance, column temperature and analysis:

reactant | sodium hydride | 1.24 g | [H-].[Na+]
reactant | 5-methyl-3-morpholinone | 3.25 g | CC1COCC(N1)=O | C5H9NO2
reactant | lauryl bromide | 7.05 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(n-dodecyl)-5-methyl-3-morpholinone | 5.69 g | C(CCCCCCCCCCC)N1C(COCC1C)=O | C17H33NO2
